US04639518
3-n-Butyl-5,6-dimethoxyquinazolin-2,4-(1H, 3H)-dione Hemihydrate
To n-butyl isocyanate (2.06 g, 2.34 ml, 20.8 mM) in pyridine (9.2 ml) at 0° C. was added a cold solution of 2-amino-5,6-dimethoxybenzoic acid ethyl ester (3.0 g, 13.3 mM) in pyridine (16.7 ml). The solution was stirred at 0° C. for thirty minutes, then kept at room temperature for one hour. The mixture was concentrated to dryness to give an off-white solid. This was dissolved in 69.9 ml of 1N NaOH (4:1 MeOH-H2O) and heated at reflux for 2 hours. The solvent was removed in vacuo and the residue dissolved in H2O (150 ml). The mixture was taken to pH 6 with acetic acid and the resulting white solid filtered, washed with H2O (50 ml) and dried to afford the title compound as a white solid; 2.38 g (64.3%); mp 159°-161° C.; CDCl3 (TMS) 7.21 (d, 1H, J7,8 =9.0 Hz, 7-H), 6.82 (d, 1H, J8,7 =9.0 Hz, 8-H), 4.10 (t, 2H, J9,10 =7.0 Hz, 9-H), 3.95 (s, 3H, 5 or 6-OCH3), 3.85 (s, 3H, 5 or 6-OCH3), 0.80-2.10 (m, 7H, 10-H, 11-H, 12-H), M+ 278.

reactant | n-butyl isocyanate | 20.8 mM, 2.34 ml, 2.06 g | C(CCC)N=C=O | C5H9NO
reactant | 2-amino-5,6-dimethoxybenzoic acid ethyl ester | 13.3 mM, 3.0 g | C(C)OC(C1=C(C=CC(=C1OC)OC)N)=O | C11H15NO4
solvent | pyridine | 9.2 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 16.7 ml | N1=CC=CC=C1 | C5H5N
solvent | NaOH | 1N, 69.9 ml | [OH-].[Na+]
product | 3-n-Butyl-5,6-dimethoxyquinazolin-2,4-(1H, 3H)-dione Hemihydrate | O.C(CCC)N1C(NC2=CC=C(C(=C2C1=O)OC)OC)=O.C(CCC)N1C(NC2=CC=C(C(=C2C1=O)OC)OC)=O | InChI=1S/2C14H18N2O4.H2O/c2*1-4-5-8-16-13(17)11-9(15-14(16)18)6-7-10(19-2)12(11)20-3;/h2*6-7H,4-5,8H2,1-3H3,(H,15,18);1H2
